US07074801B1
6-Bromo-1H-benzo[d]imidazole-2-thiol
6.7 g of 4-bromo-1,2-benzenediamine obtained by reducing 5-bromo-2-nitroaniline was dissolved in 50 mL methanol, then 4.4 mL carbon disulfide was added thereto, a solution of 1.3 g potassium hydroxide in 40 mL ethanol was added little by little thereto, and the mixture was heated for 3.5 hours under reflux. The reaction mixture was made weakly acidic by adding iced water and acetic acid, and the precipitated crystals were filtered and washed with water to give 7.1 g of the title compound as colorless crystals.

reactant | 5-bromo-2-nitroaniline | BrC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | carbon disulfide | 4.4 mL | C(=S)=S | CS2
reactant | potassium hydroxide | 1.3 g | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | 50 mL | CO | CH4O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Bromo-1H-benzo[d]imidazole-2-thiol | 7.1 g | BrC=1C=CC2=C(NC(=N2)S)C1 | C7H5BrN2S
